US06313312B1
1-(3-Nitrophenyl)-1-ethanone hydrazone
To a solution of 3-nitroacetophenone (200 g, 1.12 mol) in Industrial Methylated Spirits (1.2 l) was added hydrazine monohydrate (140 ml, 2.25 mol) and the reaction mixture was heated under reflux for 2 h. Water (1.2 l) was added and the reaction mixture was cooled to room temperature. The resulting precipitate was collected by filtration to afford the title compound as a yellow crystalline solid (180 g, 82%).

reactant | 3-nitroacetophenone | 1.12 mol, 200 g | CC(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C8H7NO3
reactant | hydrazine monohydrate | 2.25 mol, 140 ml | O.NN
solvent | Water | 1.2 l | O | H2O
product | 1-(3-Nitrophenyl)-1-ethanone hydrazone | 180 g, 82% | [N+](=O)([O-])C=1C=C(C=CC1)C(C)=NN | C8H9N3O2
